US05160662
To 200 ml of water containing 25 g of 36% hydrochloric acid, were added 6.7 g of oa p-(1-trifluoromethyl-heptyloxy)-aniline, and cooled to a temperature below 5° C., followed by adding thereto dropwise 1.7 g of sodium nitrite dissolved in 10 ml of water. After the addition was over, stirring was continued for an hour, and then 20 g of potassium iodide dissolved in 20 ml of water were added thereto, followed by putting back the temperature gradually to room temperature and stirring was continued until no evolution of nitrogen was observed. After completion of the reaction, the product was extracted with hexane. The hexane phase was washed subsequently with water, an aqueous solution of sodium hydrogen sulfite and then water, followed by distilling off the hexane to obtain 77 g of oily oa p-(1-trifluoromethylheptyloxy)iodobenzene.

reactant | hydrochloric acid | Cl | ClH
reactant | p-(1-trifluoromethyl-heptyloxy)-aniline | FC(C(CCCCCC)OC1=CC=C(N)C=C1)(F)F | C14H20F3NO
reactant | sodium nitrite | 1.7 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 20 g | [I-].[K+]
solvent | water | 10 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 200 ml, 25 g | O | H2O
product | p-(1-trifluoromethylheptyloxy)iodobenzene | FC(C(CCCCCC)OC1=CC=C(C=C1)I)(F)F | C14H18F3IO
